US04596819
7.51 g (0.03 mol) of (S)-1,1-dimethylethyl ester, [(2-amino-4-methylpentyl)thio]-acetic acid, 7.61 g (0.03 mol) carbobenzyloxy-L-proline, and 4.08 g (0.03 mol) 1-hydroxybenzotriazole are dissolved in 100 ml dichloromethane. The solution is cooled to 0° C. and 6.34 g (0.03 mol) of N,N-dicyclohexylcarbodiimide is added all at once. The reaction is kept at 0° C. for three days. The reaction mixture is filtered and the filtrate concentrated on a rotary evaporator. The residue is dissolved in ether, washed with 10% aqueous citric acid solution. The ether solution is dried over magnesium sulfate, filtered, and concentrated to a white solid. The solid is chromatographed on 230-400 mesh silica gel, eluting with dichloromethane followed by 3% methanol in dichloromethane. One obtains 10.99 g of [S-(R*,R*)]-phenylmethyl-2-[[[1-[[[2-(1,1-dimethylethoxy)-2-oxoethyl]thio]methyl]-3-methylbutyl]amino]carbonyl]-1-pyrrolidinecarboxylate; [α]D25 -11.6° (c 1.21, methanol).

reactant | [(2-amino-4-methylpentyl)thio]-acetic acid | NC(CSCC(=O)O)CC(C)C | C8H17NO2S
reactant | carbobenzyloxy-L-proline | 0.03 mol, 7.61 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | 1-hydroxybenzotriazole | 0.03 mol, 4.08 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | phenylmethyl-2-[[[1-[[[2-(1,1-dimethylethoxy)-2-oxoethyl]thio]methyl]-3-methylbutyl]amino]carbonyl]-1-pyrrolidinecarboxylate | C1(=CC=CC=C1)COC(=O)N1C(CCC1)C(=O)NC(CC(C)C)CSCC(=O)OC(C)(C)C | C25H38N2O5S
